US07960409B2
Step 5: 7-(bromomethyl)-4-chloroquinoline-2-carbonitrile
To a solution of 4-chloro-7-methylquinoline-2-carbonitrile (6.66 g, 33 mmol) in CCl4 (160 mL) was added NBS (6.46 g, 36.3 mmol) and benzoyl peroxide (800 mg, 3.3 mmol). The mixture was heated under reflux overnight, cooled to room temperature and evaporated to dryness. The reaction mixture was purified by flash chromatography on silica gel (eluting solvent: dichloromethane/hexane, 9/1) to provide the title compound (8.46 g). 1HNMR (400 MHz, acetone-d6): δ 8.37 (d, 1H), 8.30 (s, 1H), 8.20 (s, 1H), 8.05 (d, 1H), 4.95 (s, 2H).

reactant | 4-chloro-7-methylquinoline-2-carbonitrile | 33 mmol, 6.66 g | ClC1=CC(=NC2=CC(=CC=C12)C)C#N | C11H7ClN2
reactant | NBS | 36.3 mmol, 6.46 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 3.3 mmol, 800 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 160 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(bromomethyl)-4-chloroquinoline-2-carbonitrile | 8.46 g | BrCC1=CC=C2C(=CC(=NC2=C1)C#N)Cl | C11H6BrClN2
